US06175013B1
Preparation of 1-(2-methoxybenzyl)-2-methyl-4-benzyl-2-imidazoline
The intermediate 1-phenyl-2-(tritylamino)-3-[N-(2-methoxybenzyl)acetylamino]propane (8.0 g, 14.4 mmol), prepared as described in Preparation 3, supra, was dissolved in 250 ml of methylene chloride and then cooled to 0° C. under a nitrogen atmosphere. Formic acid (5.5 ml, 144.0 mmol) was then added to the reaction solution and the resulting mixture was then warmed to room temperature. The reaction mixture was then stirred for about 2.5 hours. The progress of the reaction was monitored by thin layer chromatography.

reactant | 1-phenyl-2-(tritylamino)-3-[N-(2-methoxybenzyl)acetylamino]propane | 14.4 mmol, 8.0 g | C1(=CC=CC=C1)CC(CNC(CCC1=C(C=CC=C1)OC)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H38N2O2
reactant | Formic acid | 144.0 mmol, 5.5 ml | C(=O)O | CH2O2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-methoxybenzyl)-2-methyl-4-benzyl-2-imidazoline | COC1=C(CN2C(=NC(C2)CC2=CC=CC=C2)C)C=CC=C1 | C19H22N2O
